US05830619
Synthesis of α-(acetyl)4-(trifluoromethyl)-2,6-dinitrobenzyl tosylate
α-(Acetyl)4-(trifluoromethyl)-2,6-dinitrotoluene (5.00 g, 17.10 mmol) was heated to 80° C. for 10 minutes under nitrogen. Hydroxy(tosyloxy) iodobenzene (13.40 g, 34.18 mmol) was then added slowly keeping the temperature constant at 80° C. The reaction mixture was allowed to stir for 1 hour, carefully avoiding overheating. After cooling, the reaction mixture was purified by column chromatography over silica gel (60-200 mesh) using CH2Cl2 /hexane (1:1) as the eluant. Recrystallization with chloroform/petroleum ether gave 2 g (25%) of pure product.

reactant | α-(Acetyl)4-(trifluoromethyl)-2,6-dinitrotoluene | 17.10 mmol, 5.00 g | C(C)(=O)CC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C10H7F3N2O5
reactant | Hydroxy(tosyloxy) iodobenzene | 34.18 mmol, 13.40 g | OC=1C(=C(C=CC1)I)OS(=O)(=O)C1=CC=C(C)C=C1 | C13H11IO4S
product | α-(acetyl)4-(trifluoromethyl)-2,6-dinitrobenzyl tosylate | 2 g, 25% | S(=O)(=O)(OC(C1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-])C(C)=O)C1=CC=C(C)C=C1 | C17H13F3N2O8S
